US04560683
Ethyl (Z)-2-Cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetate
Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate, hydrochloride salt (30 g) was stirred with cyclopropylmethyl bromide (13.5 g) in dimethylsulphoxide (150 ml) containing potassium carbonate (30 g) under nitrogen at 21° for 7 hours. The mixture was partitioned between methylene chloride and water. The aqueous layer was extracted with more methylene chloride and the combined organic solutions were washed with water. After drying with magnesium sulphate, the solution was concentrated and loaded onto a column of Sorbsil U30 silica gel (200 g). The column was eluted with ethyl acetate (10 to 30%) in petroleum ether (b.p. 40°-60°). Evaporation of appropriate fractions gave the title compound (20.9 g); λmax (ethanol) 234.5 nm (E1 cm1% 403); λinf. 254.5 nm (E1 cm1% 302), 259.5 nm (E1 cm1% 267), 265 nm (E1 cm1% 229), 271.5 nm (E1 cm1% 190) and 294 nm (E1 cm1% 111); νmax (CHBr3) 3398 (NH), 1730 (ester), and 1593 and 1491 cm-1 (aromatic double bond).

reactant | Ethyl (Z)-2-hydroxyimino-2-(2-tritylaminothiazol-4-yl)acetate, hydrochloride salt | 30 g | Cl.O\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | cyclopropylmethyl bromide | 13.5 g | C1(CC1)CBr | C4H7Br
reactant | potassium carbonate | 30 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylsulphoxide | 150 ml | CS(=O)C | C2H6OS
product | Ethyl (Z)-2-Cyclopropylmethoxyimino-2-(2-tritylaminothiazol-4-yl)acetate | 20.9 g | C1(CC1)CO\N=C(/C(=O)OCC)\C=1N=C(SC1)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C30H29N3O3S
